US06350749B1
To a mixture of acetone (160 ml), sodium hydroxide (6.4 g) and water (200 ml) was added dropwise at 0° C. a mixture of 2-fluoro-5-methylbenzaldehyde and 5-fluoro-2-methylbenzaldehyde (about 1:7) (28.1 g) in acetone (40 ml), and the mixture was stirred at the same temperature for 1 hour. To the mixture was added 1N hydrochloric acid (160 ml), and acetone was evaporated under reduced pressure. The residue was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate-hexane) to give 4-(2-fluoro-5-methylphenyl)-3-buten-2-one (18.2 g).

reactant | sodium hydroxide | 6.4 g | [OH-].[Na+]
reactant | 2-fluoro-5-methylbenzaldehyde | FC1=C(C=O)C=C(C=C1)C | C8H7FO
reactant | 5-fluoro-2-methylbenzaldehyde | 28.1 g | FC=1C=CC(=C(C=O)C1)C | C8H7FO
reactant | hydrochloric acid | 1N, 160 ml | Cl | ClH
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | 160 ml | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
product | 4-(2-fluoro-5-methylphenyl)-3-buten-2-one | 18.2 g | FC1=C(C=C(C=C1)C)C=CC(C)=O | C11H11FO
